US07384967B2
1-{2-Cyclopentanecarbonyl-4-[2-(4-methyl-piperazin-1-yl)-2-oxo-ethyl]-phenyl)-3-thiazol-2-yl-urea (137 mg, 60%) was prepared from [3-cyclopentanecarbonyl-4-(3-thiazol-2-yl-ureido)-phenyl]-acetic acid (186 mg, 0.5 mmol) and N-methyl piperazine (50 mg, 0.5 mmol) following the general procedure K.

reactant | [3-cyclopentanecarbonyl-4-(3-thiazol-2-yl-ureido)-phenyl]-acetic acid | 0.5 mmol, 186 mg | C1(CCCC1)C(=O)C=1C=C(C=CC1NC(=O)NC=1SC=CN1)CC(=O)O | C18H19N3O4S
reactant | N-methyl piperazine | 0.5 mmol, 50 mg | CN1CCNCC1 | C5H12N2
product | 1-{2-Cyclopentanecarbonyl-4-[2-(4-methyl-piperazin-1-yl)-2-oxo-ethyl]-phenyl)-3-thiazol-2-yl-urea | 137 mg, 60% | C1(CCCC1)C(=O)C1=C(C=CC(=C1)CC(=O)N1CCN(CC1)C)NC(=O)NC=1SC=CN1 | C23H29N5O3S
